US07517899B2
(1S,2R)-3-methylamino-1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-1-yl) propan-2-ol dihydrochloride
(1S,2R)-1-(7-chloro-pyrrolo[2,3-c]pyridine-1-yl)-3-methylamino-1-phenyl-propan-2-ol (0.12 g, 0.38 mmol) was dissolved in ethanol (20 mL) and treated with 10% palladium on carbon. The reaction mixture placed under 50 psi of hydrogen on a Parr shaker for 15 hours. The reaction mixture was filtered through a Celite pad and the filtrate was concentrated in vacuo. The crude product was purified via Biotage Horizon (Flash 25 S, silica, gradient from 30% to 100% of 0.9% ammonium hydroxide in 10% methanol-methylene chloride/methylene chloride) to give a white solid as the free base of the expected product. The free base was dissolved in a minimum amount of ethanol and treated with a 1 N ethereal solution of hydrochloric acid until the solution was pH=3 followed by diethyl ether. The product was then crystallized by adding a minimum amount of ethyl acetate to afford the titled compound, (1S,2R)-3-methylamino-1-phenyl-1-(1H-pyrrolo[2,3-c]pyrid in-1-yl)-propan-2-ol dihydrochloride as a white solid. MS (ES) m/z 282.1.

reactant | (1S,2R)-1-(7-chloro-pyrrolo[2,3-c]pyridine-1-yl)-3-methylamino-1-phenyl-propan-2-ol | 0.38 mmol, 0.12 g | ClC=1N=CC=C2C1N(C=C2)[C@H]([C@@H](CNC)O)C2=CC=CC=C2 | C17H18ClN3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (1S,2R)-3-methylamino-1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-1-yl) propan-2-ol dihydrochloride | Cl.Cl.CNC[C@H]([C@@H](N1C=CC=2C1=CN=CC2)C2=CC=CC=C2)O | InChI=1S/C17H19N3O.2ClH/c1-18-12-16(21)17(14-5-3-2-4-6-14)20-10-8-13-7-9-19-11-15(13)20;;/h2-11,16-18,21H,12H2,1H3;2*1H/t16-,17+;;/m1../s1
